US06521663B2
3. 2,2-Difluoro-2-(4-fluoronaphthyl)acetic acid
To a solution of ethyl 2,2-difluoro-2-(4-fluoronaphthyl)acetate (9.6 g, 35.8 mmol), as prepared in the preceding step, in methanol (20 mL) and THF (20 mL) was added a solution of NaOH (2.0 g, 50 mmol) in water (40 mL). The reaction mixture was stirred at room temperature for 2 hours. After evaporating the methanol and THF in vacuo, the aqueous phase was acidified to pH 2 using 10% HCl, and extracted with DCM (3×50 mL). The extracts were combined, washed with brine, dried over Na2SO4, and concentrated to give the title compound (8.1 g, 94% yield) as an off white solid. 1H-NMR (400 MHz, CDCl3) δ 9.68 (br s, 1H), 8.18 (m, 2H), 7.83 (dd, J=8.1, 5.3 Hz, 1H), 7.62 (m, 2H), 7.19 (t,J=8.3 Hz, 1H).

reactant | ethyl 2,2-difluoro-2-(4-fluoronaphthyl)acetate | 35.8 mmol, 9.6 g | FC(C(=O)OCC)(C1=CC=C(C2=CC=CC=C12)F)F | C14H11F3O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | NaOH | 50 mmol, 2.0 g | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | 2,2-Difluoro-2-(4-fluoronaphthyl)acetic acid | 8.1 g, 94% yield | FC(C(=O)O)(C1=CC=C(C2=CC=CC=C12)F)F | C12H7F3O2
